US04250183
Analogously to Example 1, by using equivalent quantities, reacting N-(p-chlorobenzoyl)-2-(p-anisidino)acetic acid and methyl 4-(p-anisidino)butyrate and suitable processing produces methyl N-[N-(p-chlorobenzoyl)-2-(p-anisidino)acetyl]-4-(p-anisidino)butyrate (oil), saponification of which and processing of the reaction product yields N-[N-(p-chlorobenzoyl)-2-(p-anisidino)acetyl]-4-(p-anisidino)butyric acid (M.P. 105° to 108°).

reactant | N-(p-chlorobenzoyl)-2-(p-anisidino)acetic acid | ClC1=CC=C(C(=O)N(C2=CC=C(OC)C=C2)CC(=O)O)C=C1 | C16H14ClNO4
reactant | methyl 4-(p-anisidino)butyrate | COC1=CC=C(C=C1)NCCCC(=O)OC | C12H17NO3
product | methyl N-[N-(p-chlorobenzoyl)-2-(p-anisidino)acetyl]-4-(p-anisidino)butyrate | ClC1=CC=C(C(=O)N(C2=CC=C(OC)C=C2)CC(=O)N(C2=CC=C(OC)C=C2)CCCC(=O)OC)C=C1 | C28H29ClN2O6
